US06696110B1
A 1M solution of boron tribromide in dichloromethane (55 cm3) was added dropwise to a solution of 2-cyano-5-(4-methoxyphenyl)thiophene (2.3 g) and dichloromethane (80 cm3) at 0° C. under an atmosphere of nitrogen. The reaction solution was stirred overnight and water (100 cm3) added. The organic layer was separated off and the aqueous layer extracted with dichloromethane (2×100 cm3). The combined organic layers were washed with brine (2×100 cm3) and then dried (MgSO4), filtered and evaporated down. The residue was purified by column chromatography on silica gel using a 9:1 hexane/ethyl acetate mixture as eluent and recrystallisation from ethanol to yield 1.4 g of g 2-cyano-5-(4-hydroxyphenyl)thiophene.

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | 2-cyano-5-(4-methoxyphenyl)thiophene | 2.3 g | C(#N)C=1SC(=CC1)C1=CC=C(C=C1)OC | C12H9NOS
reactant | water | 100 cm3 | O | H2O
solvent | dichloromethane | 55 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 80 cm3 | ClCCl | CH2Cl2
product | 2-cyano-5-(4-hydroxyphenyl)thiophene | 1.4 g | C(#N)C=1SC(=CC1)C1=CC=C(C=C1)O | C11H7NOS
